US09034900B2
Step 1: 5-(2-fluoro-5-methylsulfonylphenyl)-1,3-dimethylpyridin-2-one
A mixture of 1,3-dimethyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-one (2.50 g, 10.0 mmol), 2-bromo-1-fluoro-4-methylsulfonylbenzene (2.54 g, 10.0 mmol), CsF (3.8 g, 25.0 mmol), Pd(dppf)Cl2 (0.73 g, 1.0 mmol) in DME (50 mL) and MeOH (25 ml) was stirred at 80° C. for 18 hrs under N2. The mixture was concentrated and the residue was purified by column chromatography on silica gel (PE:EA=2:1-0:1) to give the title compound (1.8 g, 61%) as a red solid. LCMS: 295.9 (M+H)+

reactant | 1,3-dimethyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-one | 10.0 mmol, 2.50 g | CN1C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)C)=O | C13H20BNO3
reactant | 2-bromo-1-fluoro-4-methylsulfonylbenzene | 10.0 mmol, 2.54 g | BrC1=C(C=CC(=C1)S(=O)(=O)C)F | C7H6BrFO2S
reactant | CsF | 25.0 mmol, 3.8 g | [F-].[Cs+]
solvent | DME | 50 mL | COCCOC | C4H10O2
solvent | MeOH | 25 ml | CO | CH4O
catalyst | Pd(dppf)Cl2 | 1.0 mmol, 0.73 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-(2-fluoro-5-methylsulfonylphenyl)-1,3-dimethylpyridin-2-one | 1.8 g, 61% | FC1=C(C=C(C=C1)S(=O)(=O)C)C=1C=C(C(N(C1)C)=O)C | C14H14FNO3S
